US08614238B2
N-(Biphenyl-4-yl)-N-methyl-2,2,2-trifluoro-acetamide
13.00 g (49.0 mmol) N-(Biphenyl-4-yl)-2,2,2-trifluoro-acetamide (II.1.a) is dissolved in 200 mL acetone and 13.5 g (98.0 mmol) potassium carbonate is added. 3.50 mL (55.7 mmol) methyl iodide is added and the mixture is stirred at RT over night. The solvent is evaporated. The residue is taken up in water and extracted with ethyl acetate. The organic phase is dried and the solvent is evaporated.

reactant | N-(Biphenyl-4-yl)-2,2,2-trifluoro-acetamide | 49.0 mmol, 13.00 g | C1(=CC=C(C=C1)NC(C(F)(F)F)=O)C1=CC=CC=C1 | C14H10F3NO
reactant | potassium carbonate | 98.0 mmol, 13.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 55.7 mmol, 3.50 mL | CI | CH3I
solvent | acetone | 200 mL | CC(=O)C | C3H6O
product | N-(Biphenyl-4-yl)-N-methyl-2,2,2-trifluoro-acetamide | C1(=CC=C(C=C1)N(C(C(F)(F)F)=O)C)C1=CC=CC=C1 | C15H12F3NO
